US09216980B2
Step 2: 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid azide
Hydrogen chloride (3.0 mL, 90 mmol) was added dropwise to a suspension of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid hydrazide (530 mg, 1.73 mmol) in water (12.4 mL). Once homogeneous, the solution was cooled to 0° C. and a solution of 3N sodium nitrite in water (0.60 mL, 2.0 mmol) was added to the mixture. After 1 h, added another 1.03 eq. of 3N sodium nitrite in water (0.60 mL, 2.0 mmol) and allowed the reaction to warm to ambient temperature over night. After 17 h at room temperature, the reaction was cooled to 0° C. and a solution of 3N sodium nitrite in water (0.60 mL, 2.0 mmol) was added and then warmed to room temperature. The reaction was made basic with a solution of saturated sodium bicarbonate, and the solid precipitate was collected by filtration, washed with water, and dried in a dessicator under vacuum to provide a solid material that was 70% pure by LCMS analysis.

reactant | Hydrogen chloride | 90 mmol, 3.0 mL | Cl | ClH
reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid hydrazide | 1.73 mmol, 530 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)C(=O)NN)N=C1 | C11H8BrN5O
reactant | sodium nitrite | 3N | N(=O)[O-].[Na+]
reactant | sodium nitrite | 3N, 1.03 eq. | N(=O)[O-].[Na+]
reactant | sodium nitrite | 3N | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 12.4 mL | O | H2O
solvent | water | 2.0 mmol, 0.60 mL | O | H2O
solvent | water | 2.0 mmol, 0.60 mL | O | H2O
solvent | water | 2.0 mmol, 0.60 mL | O | H2O
product | 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid azide | BrC1=CC2=C(NC3=C2C=C(N=C3)C(=O)N=[N+]=[N-])N=C1 | C11H5BrN6O
